US07312233B2
6-chloro-7-nitro-2H-benz[b][1,4]oxazin-3(4H)-one
This compound was prepared using the general procedure described for 2,2-Dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one above except 2-amino-4-chloro-5-nitrophenol was used as starting material.

reactant | 2,2-Dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | CC1(C(NC2=C(O1)C=CC(=C2)[N+](=O)[O-])=O)C | C10H10N2O4
reactant | 2-amino-4-chloro-5-nitrophenol | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
product | 6-chloro-7-nitro-2H-benz[b][1,4]oxazin-3(4H)-one | ClC1=CC2=C(OCC(N2)=O)C=C1[N+](=O)[O-] | C8H5ClN2O4
